US07763186B2
Preparation of 1-butyl-2,3-dimethylimidazolium chloride.
n-Chlorobutane (55 g) was added slowly to 1,2-dimethylimidazole (50 g) in a 200-milliliter, two-necked round bottom flask fitted with a reflux condenser. This mixture was then stirred with a magnetic stirrer at 70° C. for 1 week. During the week a white solid formed, which slowly turned yellow. The solution was allowed to cool to room temperature. The liquid was decanted away from the yellow solid that remained. The yellow solid washed with diethylether (3×200 mL) and dried under vacuum for 24 hours. The dry yellow solid was dissolved in water (1.5 liters) and decolorizing charcoal (6 g) was added. This mixture was heated to 70° C. for 24 hours, cooled and filtered. The filtrate was pale yellow. The pale yellow filtrate was then treated with decolorizing charcoal (6 g). The mixture was heated for a further 24 hours at 65° C. The solution was cooled to room temperature and filtered. The filtrate was colorless. The water was removed from the colorless filtrate using a lyophilizer. The resulting solid was then heated under a vacuum for 48 hours at 65° C. 1-Butyl-2,3-dimethylimidazolium chloride was obtained as a white solid in a yield of 85%.

reactant | 1,2-dimethylimidazole | 50 g | CN1C(=NC=C1)C | C5H8N2
reactant | n-Chlorobutane | 55 g | CCCCCl | C4H9Cl
product | 1-butyl-2,3-dimethylimidazolium chloride | yield of 85% | [Cl-].C(CCC)[N+]1=C(N(C=C1)C)C | InChI=1S/C9H17N2.ClH/c1-4-5-6-11-8-7-10(3)9(11)2;/h7-8H,4-6H2,1-3H3;1H/q+1;/p-1
